US06787651B2
Ethyl 3-formyl-1-(3-methoxybenzyl)-1H-indole-2-carboxylate
Sodium hydride (60% dispersion in mineral oil, 2.40 g, 60.0 mmol) was cooled to 0° C., and anhydrous methyl sulfoxide (75.0 mL, 1.06 mol) was added. The mixture was stirred at 0° C. for 15 minutes before a solution of ethyl 3-formyl-1H-indole-2-carboxylate (10.9 g, 50.2 mmol, Lit. J. Heterocyclic Chem. 1997, 34, 1431.) in 75 mL of methyl sulfoxide was added over a 20 minute period. The resulting solution was warmed to room temperature and stirred for 1 hour. 3-Methoxybenzylbromide (9.8 mL, 70.0 mmol) was added, and the solution was heated at 60° C. for 16 hours. The solution was cooled and poured into water (500 mL). The aqueous solution was extracted with ethyl acetate (3×), and the combined organic extracts were washed with 1 N hydrochloric acid (2×), water, and brine. The solution was dried over anhydrous magnesium sulfate and concentrated in vacuo. Trituration of the residue with 33% hexane/Et2O provided the title compound as a solid (13.8 g, 81%). The product had: 1H NMR (300 MHz, acetone-d6) δ 10.61 (s, 1 H), 8.43 (d, 1 H), 7.61 (d, 1 H), 7.30-7.45 (m, 2 H), 7.19 (dd, 1 H), 6.80 (dd, 1 H), 6.63-6.74 (m, 2 H), 5.88 (s, 2 H), 4.48 (dq, 2 H), 3.70 (s, 3 H), 1.37 (t, 3 H); mass spectroscopy gave MH+=338.1 (calc'd exact mass for C20H19NO4=337.13).

reactant | Sodium hydride | 60.0 mmol, 2.40 g | [H-].[Na+]
reactant | ethyl 3-formyl-1H-indole-2-carboxylate | 50.2 mmol, 10.9 g | C(=O)C1=C(NC2=CC=CC=C12)C(=O)OCC | C12H11NO3
reactant | 3-Methoxybenzylbromide | 70.0 mmol, 9.8 mL | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | water | 500 mL | O | H2O
solvent | methyl sulfoxide | 75 mL | CS(=O)C | C2H6OS
solvent | methyl sulfoxide | 1.06 mol, 75.0 mL | CS(=O)C | C2H6OS
product | Ethyl 3-formyl-1-(3-methoxybenzyl)-1H-indole-2-carboxylate | 13.8 g, 81% | C(=O)C1=C(N(C2=CC=CC=C12)CC1=CC(=CC=C1)OC)C(=O)OCC | C20H19NO4
